*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.4
* < ILD_dielectric_const = 4.2
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_0 1 2 3 4 REF
C_C1 1 REF 0.3706907944924pf
C_C2 1 2 17.136547891729pf
C_C3 1 4 0.3053941595484pf
C_C4 2 REF 0.5865267781807pf
C_C5 2 3 0.180491902769pf
C_C6 3 REF 0.4310053215364pf
C_C7 3 4 6.8607672225456pf
C_C8 4 REF 0.4122000748534pf
L_L1 3 5 1.3056209863098nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_1 1 2 3 4 REF
C_C1 1 REF 0.3740310031959pf
C_C2 1 2 17.24046768295pf
C_C3 1 4 0.2867881598442pf
C_C4 2 REF 0.5929504994728pf
C_C5 2 3 0.1608644462878pf
C_C6 3 REF 0.4299035464246pf
C_C7 3 4 5.0829060162114pf
C_C8 4 REF 0.4127383607952pf
L_L1 3 5 1.3070743140086nh
R_RL1 5 4 2.5677198209e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_2 1 2 3 4 REF
C_C1 1 REF 0.366557469987pf
C_C2 1 2 17.376652672598pf
C_C3 1 4 0.273074508845pf
C_C4 2 REF 0.5889496884415pf
C_C5 2 3 0.1464876816237pf
C_C6 3 REF 0.428375687144pf
C_C7 3 4 3.8414560616988pf
C_C8 4 REF 0.4137588837338pf
L_L1 3 5 1.3082882532293nh
R_RL1 5 4 1.6014628272e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_3 1 2 3 4 REF
C_C1 1 REF 0.3519403217952pf
C_C2 1 2 17.593857204453pf
C_C3 1 4 0.2612496129655pf
C_C4 2 REF 0.5792372260246pf
C_C5 2 3 0.1336751003682pf
C_C6 3 REF 0.4265076117343pf
C_C7 3 4 2.7732388887494pf
C_C8 4 REF 0.4151185916151pf
L_L1 3 5 1.3095193054194nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_4 1 2 3 4 REF
C_C1 1 REF 0.3344630670068pf
C_C2 1 2 17.915416685148pf
C_C3 1 4 0.2527300509321pf
C_C4 2 REF 0.5683175615111pf
C_C5 2 3 0.1233645805311pf
C_C6 3 REF 0.424710317975pf
C_C7 3 4 1.9172108779682pf
C_C8 4 REF 0.4164852921934pf
L_L1 3 5 1.3107542167323nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_5 1 2 3 4 REF
C_C1 1 REF 0.3198705255236pf
C_C2 1 2 18.309096836301pf
C_C3 1 4 0.2489518962955pf
C_C4 2 REF 0.5610842757791pf
C_C5 2 3 0.1169640586503pf
C_C6 3 REF 0.423460920276pf
C_C7 3 4 1.3508527250614pf
C_C8 4 REF 0.4174652316989pf
L_L1 3 5 1.3117385425554nh
R_RL1 5 4 -1.904006058e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_6 1 2 3 4 REF
C_C1 1 REF 0.3085429941997pf
C_C2 1 2 18.778352197776pf
C_C3 1 3 0.0120551316325pf
C_C4 1 4 0.2487924904242pf
C_C5 2 REF 0.5579552063193pf
C_C6 2 3 0.113348873128pf
C_C7 3 REF 0.4226749095542pf
C_C8 3 4 0.9629832243559pf
C_C9 4 REF 0.4180971805468pf
L_L1 3 5 1.3125458615339nh
R_RL1 5 4 -2.854248305e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_7 1 2 3 4 REF
C_C1 1 REF 0.2985730713084pf
C_C2 1 2 19.433448762049pf
C_C3 1 3 0.0142057022606pf
C_C4 1 4 0.2522787203211pf
C_C5 2 REF 0.5587836706444pf
C_C6 2 3 0.1117544007352pf
C_C7 3 REF 0.4221867792647pf
C_C8 3 4 0.6535529177664pf
C_C9 4 REF 0.4185000834821pf
L_L1 3 5 1.3133058251952nh
R_RL1 5 4 -3.739993917e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_8 1 2 3 4 REF
C_C1 1 REF 0.2897448389011pf
C_C2 1 2 20.322578757269pf
C_C3 1 3 0.0138612690241pf
C_C4 1 4 0.2599377318516pf
C_C5 2 REF 0.5639251798982pf
C_C6 2 3 0.1123901929086pf
C_C7 3 REF 0.4219718728625pf
C_C8 3 4 0.4153332033786pf
C_C9 4 REF 0.418683018661pf
L_L1 3 5 1.314021216527nh
R_RL1 5 4 -4.506213554e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_9 1 2 3 4 REF
C_C1 1 REF 0.2810702818799pf
C_C2 1 2 21.542280803808pf
C_C3 1 3 0.0107780393401pf
C_C4 1 4 0.2727185426208pf
C_C5 2 REF 0.5736500882651pf
C_C6 2 3 0.1155622975409pf
C_C7 3 REF 0.4219656887306pf
C_C8 3 4 0.2397903542933pf
C_C9 4 REF 0.4186871569565pf
L_L1 3 5 1.3146541134352nh
R_RL1 5 4 -5.032314766e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_10 1 2 3 4 REF
C_C1 1 REF 0.2710124956292pf
C_C2 1 2 23.193688237911pf
C_C3 1 4 0.2913536885915pf
C_C4 2 REF 0.5877620828192pf
C_C5 2 3 0.1213683875189pf
C_C6 3 REF 0.4220613287297pf
C_C7 3 4 0.1127161177484pf
C_C8 4 REF 0.418591331078pf
L_L1 1 5 89.653588449064nh
R_RL1 5 2 6.4942141952288
L_L2 3 6 1.3152177082556nh
R_RL2 6 4 -5.251189759e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_11 1 2 3 4 REF
C_C1 1 REF 0.25741907539pf
C_C2 1 2 25.481343596607pf
C_C3 1 4 0.3176998535422pf
C_C4 2 REF 0.6068848981587pf
C_C5 2 3 0.130268754558pf
C_C6 3 REF 0.4221651397999pf
C_C7 3 4 0.0234152788371pf
C_C8 4 REF 0.4184685654825pf
L_L1 1 5 53.613035422572nh
R_RL1 5 2 4.7372976405895
L_L2 3 6 1.3156701041476nh
R_RL2 6 4 -5.06727938e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_12 1 2 3 4 REF
C_C1 1 REF 0.2378479002619pf
C_C2 1 2 28.667576679764pf
C_C3 1 4 0.35414386651pf
C_C4 2 REF 0.6321567474516pf
C_C5 2 3 0.142829587389pf
C_C6 3 REF 0.4222040113957pf
C_C7 4 REF 0.4183862809787pf
L_L1 1 5 29.941387574448nh
R_RL1 5 2 3.0257543382313
L_L2 3 6 1.3156758553496nh
R_RL2 6 4 -4.38290308e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_13 1 2 3 4 REF
C_C1 1 REF 0.2081652561039pf
C_C2 1 2 33.303468528588pf
C_C3 1 4 0.4062231238315pf
C_C4 2 REF 0.6669841352133pf
C_C5 2 3 0.1606601372586pf
C_C6 3 REF 0.4221274728759pf
C_C7 4 REF 0.4184082990936pf
R_R1 1 2 -806.0200437351
L_L1 1 5 26.730344265556nh
R_RL1 5 2 14.489078995306
L_L2 3 6 1.3153721491283nh
R_RL2 6 4 -3.160347114e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_14 1 2 3 4 REF
C_C1 1 REF 0.1621239628092pf
C_C2 1 2 40.281813020028pf
C_C3 1 4 0.4831851850408pf
C_C4 2 REF 0.7173559896767pf
C_C5 2 3 0.1865929233035pf
C_C6 3 REF 0.4219049367229pf
C_C7 4 REF 0.4186086771598pf
R_R1 1 2 -535.894316246
L_L1 1 5 12.806330616241nh
R_RL1 5 2 1.7745296842149
L_L2 3 6 1.3148701664054nh
R_RL2 6 4 -1.903790326e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_15 1 2 3 4 REF
C_C1 1 REF 0.0852932310883pf
C_C2 1 2 51.713012142609pf
C_C3 1 4 0.6075253385704pf
C_C4 2 REF 0.7977916980982pf
C_C5 2 3 0.2278934520468pf
C_C6 3 REF 0.421486162533pf
C_C7 4 REF 0.4191394433831pf
R_R1 1 2 -371.845941367
L_L1 1 5 6.9816554126305nh
R_RL1 5 2 0.6311803159726
L_L2 3 6 1.3140110271536nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_16 1 2 3 4 REF
C_C1 1 2 74.302847266764pf
C_C2 1 4 0.8515172206519pf
C_C3 2 REF 0.9545717563714pf
C_C4 2 3 0.3083399197476pf
C_C5 3 REF 0.420700727098pf
C_C6 4 REF 0.4204700130157pf
R_R1 1 2 -251.3673801007
L_L1 1 5 2.9129487958247nh
R_RL1 5 2 0.2028058601656
L_L2 3 6 1.3123478004206nh
R_RL2 6 4 1.8853277886e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_17 1 2 3 4 REF
C_C1 1 2 131.23484378135pf
C_C2 1 4 1.4651130302122pf
C_C3 2 REF 1.3470929301305pf
C_C4 2 3 0.5101531568801pf
C_C5 3 REF 0.4189826348092pf
C_C6 4 REF 0.4243048633032pf
R_R1 1 2 -150.894793296
L_L1 1 5 1.1091883142939nh
R_RL1 5 2 0.0614519318495
L_L2 1 6 50.750984129469nh
R_RL2 6 3 0.0360205596026
L_L3 1 7 50.022414095846nh
R_RL3 7 4 0.0365008365146
L_L4 2 8 50.853366368522nh
R_RL4 8 3 0.0037057901509
L_L5 2 9 50.128040024221nh
R_RL5 9 4 0.0036112982714
L_L6 3 10 1.3082714636012nh
R_RL6 10 4 3.8056331321e-5
Kn_K1 L_L1 L_L2 0.0670951232463
Kn_K2 L_L1 L_L3 0.067364239837
Kn_K3 L_L1 L_L4 -0.080659628486
Kn_K4 L_L1 L_L5 -0.081458587379
Kn_K5 L_L2 L_L3 0.9870434869344
Kn_K6 L_L2 L_L4 0.9890837617789
Kn_K7 L_L2 L_L5 0.9760225061855
Kn_K8 L_L2 L_L6 -0.124984475027
Kn_K9 L_L3 L_L4 0.9761005527814
Kn_K10 L_L3 L_L5 0.9889253299897
Kn_K11 L_L3 L_L6 0.0358296955729
Kn_K12 L_L4 L_L5 0.9870698950189
Kn_K13 L_L4 L_L6 -0.124659758558
Kn_K14 L_L5 L_L6 0.0359921987579
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_18 1 2 3 4 REF
C_C1 1 2 387.09682526451pf
C_C2 1 4 4.2218843601613pf
C_C3 2 REF 3.106346804276pf
C_C4 2 3 1.4155827142277pf
C_C5 3 REF 0.4123358022935pf
C_C6 4 REF 0.4428026544703pf
R_R1 1 2 -58.74891646202
L_L1 1 5 31.657781524473nh
R_RL1 5 REF -0.015428982557
L_L2 1 6 0.2550903700033nh
R_RL2 6 2 0.0111402743996
L_L3 1 7 13.855604653831nh
R_RL3 7 3 0.0062681607324
L_L4 1 8 13.177498677996nh
R_RL4 8 4 0.006583580084
L_L5 2 9 31.480449492822nh
R_RL5 9 REF -4.20203321e-3
L_L6 2 10 13.907578735366nh
R_RL6 10 3 7.9244494027e-4
L_L7 2 11 13.233797666919nh
R_RL7 11 4 6.8612348138e-4
L_L8 3 12 45.216465075259nh
R_RL8 12 REF -9.632812695e-3
L_L9 3 13 1.2901489295758nh
R_RL9 13 4 5.1252445316e-5
L_L10 4 14 44.530030844594nh
R_RL10 14 REF -9.300127525e-3
Kn_K1 L_L1 L_L2 0.0760835762621
Kn_K2 L_L1 L_L5 0.9959637395539
Kn_K3 L_L1 L_L8 0.832818764479
Kn_K4 L_L1 L_L10 0.839102295661
Kn_K5 L_L2 L_L3 0.0540200501552
Kn_K6 L_L2 L_L4 0.0542130739151
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.081512976214
Kn_K9 L_L2 L_L7 -0.084739226349
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9525749565752
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9908136554717
Kn_K15 L_L3 L_L7 0.9430466090022
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.232765538363
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9434511695841
Kn_K21 L_L4 L_L7 0.9903438687054
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0742190673944
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.832122236409
Kn_K26 L_L5 L_L10 0.8383423513024
Kn_K27 L_L6 L_L7 0.9527592297934
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.231819690301
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0745843692741
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1293948133872
Kn_K35 L_L8 L_L10 0.9856533515541
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_19 1 2 3 4 REF
C_C1 1 REF 18.741025166364pf
C_C2 1 3 9.4962104163059pf
C_C3 2 4 28.750422507468pf
C_C4 3 REF 0.4859066914767pf
C_C5 4 REF 0.2165958566004pf
R_R1 1 2 8.998191596024
R_R2 1 4 834.24900850001
R_R3 2 4 -834.5222658554
L_L1 1 5 3.2803492357946nh
R_RL1 5 REF -1.706164349e-4
L_L2 1 6 0.1532385360718nh
R_RL2 6 2 -0.039225212817
L_L3 1 7 2.2309977437885nh
R_RL3 7 3 -0.016663038387
L_L4 1 8 1.682981255341nh
R_RL4 8 4 -0.024620845048
L_L5 2 9 3.398827937049nh
R_RL5 9 REF -0.042046909045
L_L6 2 10 2.1976105690729nh
R_RL6 10 3 -4.726682064e-3
L_L7 2 11 1.61868054786nh
R_RL7 11 4 -1.687469717e-3
L_L8 3 12 5.502373876288nh
R_RL8 12 REF -0.018569100047
L_L9 3 13 1.1331366078547nh
R_RL9 13 4 -7.355936053e-4
L_L10 4 14 4.9614984333613nh
R_RL10 14 REF -0.026894402635
Kn_K1 L_L1 L_L2 0.0245134066575
Kn_K2 L_L1 L_L5 0.9772110276233
Kn_K3 L_L1 L_L8 0.771064306242
Kn_K4 L_L1 L_L10 0.8128910078207
Kn_K5 L_L2 L_L3 0.1595908237467
Kn_K6 L_L2 L_L4 0.2141824991273
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.103265109766
Kn_K9 L_L2 L_L7 -0.089287765652
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0370931324731
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7175582706914
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9654254740416
Kn_K16 L_L3 L_L7 0.6825682962326
Kn_K17 L_L3 L_L8 0.9349773176705
Kn_K18 L_L3 L_L9 -0.528672315156
Kn_K19 L_L3 L_L10 0.9856955482157
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.6664306585034
Kn_K22 L_L4 L_L7 0.9537683447012
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2118528258437
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0172090302469
Kn_K27 L_L5 L_L7 0.0119396284778
Kn_K28 L_L5 L_L8 0.7750645819527
Kn_K29 L_L5 L_L10 0.8208521086971
Kn_K30 L_L6 L_L7 0.711311360755
Kn_K31 L_L6 L_L8 0.9638891985598
Kn_K32 L_L6 L_L9 -0.54246804929
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.2046067600077
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.335206476416
Kn_K38 L_L8 L_L10 0.8929032726648
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_20 1 2 3 4 REF
C_C1 1 2 1445.6395033894pf
C_C2 1 4 15.623226619288pf
C_C3 2 REF 10.379705503896pf
C_C4 2 3 5.1601263958754pf
C_C5 3 REF 0.3854978367136pf
C_C6 4 REF 0.5198938084313pf
R_R1 1 2 -14.62383070972
L_L1 1 5 5.0774097676516nh
R_RL1 5 REF -7.353431192e-5
L_L2 1 6 0.032001608779nh
R_RL2 6 2 0.0014535708072
L_L3 1 7 3.0259767009033nh
R_RL3 7 3 6.9506559255e-4
L_L4 1 8 2.4119703153091nh
R_RL4 8 4 8.9380650144e-4
L_L5 2 9 5.0401622919933nh
R_RL5 9 REF 0.0014067390453
L_L6 2 10 3.0384651491083nh
R_RL6 10 3 1.5047165275e-4
L_L7 2 11 2.4310000862271nh
R_RL7 11 4 7.10377523e-5
L_L8 3 12 8.0577322127459nh
R_RL8 12 REF 6.3989934371e-4
L_L9 3 13 1.1895926233081nh
R_RL9 13 4 3.0038040546e-5
L_L10 4 14 7.4370208886172nh
R_RL10 14 REF 8.4568287334e-4
Kn_K1 L_L1 L_L2 0.0858968083771
Kn_K2 L_L1 L_L5 0.9968437820714
Kn_K3 L_L1 L_L8 0.7902377627427
Kn_K4 L_L1 L_L10 0.8220089588503
Kn_K5 L_L2 L_L3 0.031352987334
Kn_K6 L_L2 L_L4 0.0233453092284
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.071337835957
Kn_K9 L_L2 L_L7 -0.091480582558
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.016762953591
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7862704844303
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9947251835022
Kn_K16 L_L3 L_L7 0.7795897270591
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.475311225495
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.782257145445
Kn_K22 L_L4 L_L7 0.9933998217323
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1699007497018
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7892501514595
Kn_K27 L_L5 L_L10 0.8204447348241
Kn_K28 L_L6 L_L7 0.7873742908152
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.472613106978
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.1711577414931
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.2923586558188
Kn_K36 L_L8 L_L10 0.9239677709211
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_21 1 2 3 4 REF
C_C1 1 2 119.80645158679pf
C_C2 1 4 1.3374111466471pf
C_C3 2 REF 1.2740529429778pf
C_C4 2 3 0.4714333834594pf
C_C5 3 REF 0.4169959422719pf
C_C6 4 REF 0.4209315288793pf
R_R1 1 2 -240.3919060732
L_L1 1 5 0.2742450225695nh
R_RL1 5 2 0.007609695539
L_L2 1 6 26.750623108552nh
R_RL2 6 3 0.0053396014401
L_L3 1 7 26.016789083321nh
R_RL3 7 4 0.0054715465354
L_L4 2 8 26.96786021019nh
R_RL4 8 3 -2.60908318e-4
L_L5 2 9 26.242524480044nh
R_RL5 9 4 -2.861422835e-4
L_L6 3 10 1.2994532201274nh
R_RL6 10 4 -1.577806355e-5
Kn_K1 L_L1 L_L2 0.010523710166
Kn_K2 L_L1 L_L4 -0.090361849175
Kn_K3 L_L1 L_L5 -0.093186031786
Kn_K4 L_L2 L_L3 0.9754682785214
Kn_K5 L_L2 L_L4 0.9949029088266
Kn_K6 L_L2 L_L5 0.9701879705985
Kn_K7 L_L2 L_L6 -0.172433428973
Kn_K8 L_L3 L_L4 0.9706157484009
Kn_K9 L_L3 L_L5 0.9947615071692
Kn_K10 L_L3 L_L6 0.0486392613184
Kn_K11 L_L4 L_L5 0.9756696067931
Kn_K12 L_L4 L_L6 -0.171019722521
Kn_K13 L_L5 L_L6 0.0491572581807
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_22 1 2 3 4 REF
C_C1 1 REF 0.2062901178276pf
C_C2 1 2 37.660531078491pf
C_C3 1 4 0.4533358816579pf
C_C4 2 REF 0.7167583811019pf
C_C5 2 3 0.1793654980261pf
C_C6 3 REF 0.4180813283221pf
C_C7 4 REF 0.4138559434514pf
L_L1 1 5 0.6912075887143nh
R_RL1 5 2 0.0018063055855
L_L2 1 6 92.954195889716nh
R_RL2 6 3 0.0143086212727
L_L3 1 7 91.975039088827nh
R_RL3 7 4 0.0140649091837
L_L4 2 8 94.081065614054nh
R_RL4 8 3 -6.051921984e-4
L_L5 2 9 93.109751484635nh
R_RL5 9 4 -8.759763626e-4
L_L6 3 10 1.3071298174126nh
R_RL6 10 4 -3.320342573e-5
Kn_K1 L_L1 L_L2 -0.027175720829
Kn_K2 L_L1 L_L3 -0.027811799925
Kn_K3 L_L1 L_L4 -0.112726750776
Kn_K4 L_L1 L_L5 -0.113802005024
Kn_K5 L_L2 L_L3 0.9929456481915
Kn_K6 L_L2 L_L4 0.9963224827517
Kn_K7 L_L2 L_L5 0.9892181382682
Kn_K8 L_L2 L_L6 -0.103706700902
Kn_K9 L_L3 L_L4 0.9893650265335
Kn_K10 L_L3 L_L5 0.9962841779264
Kn_K11 L_L3 L_L6 0.0149559418275
Kn_K12 L_L4 L_L5 0.9930304949839
Kn_K13 L_L4 L_L6 -0.102730139621
Kn_K14 L_L5 L_L6 0.0152199785579
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_23 1 2 3 4 REF
C_C1 1 REF 0.3529894669581pf
C_C2 1 2 17.029927719083pf
C_C3 1 3 0.0339874734236pf
C_C4 1 4 0.2304964933899pf
C_C5 2 REF 0.5820984555119pf
C_C6 2 3 0.1043785442979pf
C_C7 3 REF 0.4174518292428pf
C_C8 4 REF 0.4110612716125pf
L_L1 1 5 1.0562490504445nh
R_RL1 5 2 2.9324030736e-4
L_L2 3 6 1.3072842261375nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_24 1 2 3 4 REF
C_C1 1 REF 0.4099133093537pf
C_C2 1 2 9.799570303885pf
C_C3 1 3 0.0652281600596pf
C_C4 1 4 0.1506576736133pf
C_C5 2 REF 0.5399479994457pf
C_C6 2 3 0.0762988871849pf
C_C7 3 REF 0.4162228484902pf
C_C8 4 REF 0.4089314692971pf
L_L1 1 5 1.6296464970785nh
R_RL1 5 2 2.1443149771e-4
L_L2 3 6 1.3051970795954nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_25 1 2 3 4 REF
C_C1 1 REF 0.4397303632047pf
C_C2 1 2 6.7675341480215pf
C_C3 1 3 0.0834539311172pf
C_C4 1 4 0.1154411134619pf
C_C5 2 REF 0.5287402466408pf
C_C6 2 3 0.0620555070668pf
C_C7 2 4 0.0401294515615pf
C_C8 3 REF 0.4145027060895pf
C_C9 4 REF 0.4066609351484pf
L_L1 1 5 1.8257410279399nh
R_RL1 5 2 5.8055566051e-4
L_L2 3 6 1.3025380787989nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_26 1 2 3 4 REF
C_C1 1 REF 0.4532242364285pf
C_C2 1 2 5.8182086546273pf
C_C3 1 3 0.0932815490205pf
C_C4 1 4 0.1029593264206pf
C_C5 2 REF 0.5300211200154pf
C_C6 2 3 0.055386887748pf
C_C7 2 4 0.0559608391048pf
C_C8 3 REF 0.4130850988758pf
C_C9 4 REF 0.4049332014619pf
L_L1 1 5 1.9257474317277nh
R_RL1 5 2 8.2830583001e-5
L_L2 3 6 1.3014028504487nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param41_26

